US06727264B1
N1-{3-[1-(3-AMINOPROPYL)-1,2,3,6-TETRAHYDRO-4-PYRIDINYL]PHENYL}ACETAMIDE:
A 1:1 solution of TFA:CH2Cl2 (5 mL) was added to tert-butyl N-(3-{4-[3-(acetylamino)phenyl]-1,2,3,6-tetrahydro-1-pyridinyl}propyl)carbamate in dichloromethane (5 mL). The resulting solution was stirred at room temperature for 1-3 days, saturated NaHCO3 was added until pH>6, the organic layer was separated, and dried in vacuo, giving the desired product (45 mg): 1H NMR (CDCl3) δ 7.68 (br, 1H), 7.35 (dm, 1H, J=7.8 Hz), 7.25 (apparent t, 1H, J=7.8 Hz), 7.15 (dm, 1H, J=7.8 Hz), 6.12 (m, 1H), 3.22 (m, 2H), 3.03 (t, 2H, J=7.3 Hz), 2.78 (t, 2H, J=5.5 Hz), 2.70-2.50 (m, 4H), 2.10 (s, 3H), 1.87 (p, 2H, J=7.3 Hz).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl N-(3-{4-[3-(acetylamino)phenyl]-1,2,3,6-tetrahydro-1-pyridinyl}propyl)carbamate | C(C)(=O)NC=1C=C(C=CC1)C=1CCN(CC1)CCCNC(OC(C)(C)C)=O | C21H31N3O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N1-{3-[1-(3-AMINOPROPYL)-1,2,3,6-TETRAHYDRO-4-PYRIDINYL]PHENYL}ACETAMIDE | 45 mg | NCCCN1CCC(=CC1)C=1C=C(C=CC1)NC(C)=O | C16H23N3O
